US05114939
2-Chloro-N-(2-phenylethyl)-4-quinolinamine
To 0.6 g of 2-hydroxy-N-(2-phenylethyl)-4-quinolinamine was added 15 mL of POCl3. The mixture was heated to reflux overnight, then cooled and concentrated to dryness. A mixture of ammonium hydroxide in water was added, then the product was extracted into CH2Cl2. This solution was concentrated to dryness, and the product was recrystallized from pentane/CH2Cl2, giving 0.55 g of the title product. Yield 85.9%. M.P. 132°-133° C.

reactant | 2-hydroxy-N-(2-phenylethyl)-4-quinolinamine | 0.6 g | OC1=NC2=CC=CC=C2C(=C1)NCCC1=CC=CC=C1 | C17H16N2O
reactant | POCl3 | 15 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-N-(2-phenylethyl)-4-quinolinamine | 0.55 g, Yield 85.9% | ClC1=NC2=CC=CC=C2C(=C1)NCCC1=CC=CC=C1 | C17H15ClN2
